US04522944
2-amino-5-morpholino-1,3,4-thiadiazole (5 g) was reacted with diethyl(1-ethoxy-ethylidene)-malonate (6.2 g) in diglyme (40 ml) at 150° C. for 20 hours. After cooling the reaction mixture was diluted with ice water and extracted with ethyl acetate; after evaporation in vacuo to dryness, the residue was purified over a SiO2 column using chloroform-methanol 98:2 as eluent. Crystallization from isopropyl ether gave 7-methyl-2-morpholino-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-6-carboxylic acid, ethyl ester, m.p. 196°-198° C. (2.6 g), which was reacted with 2-amino-pyridine (2.25 g) in polyphosphoric acid (130 g) under stirring at 120° C. for 4 hours. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate was filtered and washed with water to give 1.9 g of 7-methyl-2-morpholino-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-6-N-(2-pyridyl)-carboxamide, m.p. 285°-287° C.

reactant | 2-amino-5-morpholino-1,3,4-thiadiazole | 5 g | NC=1SC(=NN1)N1CCOCC1 | C6H10N4OS
reactant | diethyl(1-ethoxy-ethylidene)-malonate | 6.2 g | C(C)OC(C(C(=O)OCC)=C(C)OCC)=O | C11H18O5
solvent | diglyme | 40 ml | COCCOCCOC | C6H14O3
product | 7-methyl-2-morpholino-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-6-carboxylic acid, ethyl ester | CC=1N=C2N(C(C1C(=O)OCC)=O)N=C(S2)N2CCOCC2 | C13H16N4O4S
